US07271153B2
A suspension of methyl acetoacetate (3.2 mL) 4-methoxy-benzyl chloride (4.1 mL), lithium bromide (2.6 g) and diisopropylethylamine (5.2 mL) in tetrahydrofuran (60 mL) was heated under reflux for 15 hours. After the reaction mixture was cooled to room temperature, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give methyl 2-(4-methoxybenzyl)acetoacetate. To a suspension of acetoamidine hydrochloride (2.0 g) in methanol (60 mL) was added sodium methoxide (28% solution in methanol, 2.6 mL), and the mixture was stirred for 5 minutes at room temperature. To the reaction mixture was added a solution of methyl 2-(4-methoxy-benzyl)acetoacetate in methanol (6 mL), and the mixture was stirred for 48 hours at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. To the residue was added ethyl acetate, and the resulting precipitated crystals were collected by filtration and dried to give 5-(4-methoxybenzyl)-2,6-dimethyl-3H-pyrimidin-4-one (0.54 g).

reactant | acetoamidine hydrochloride | 2.0 g | Cl.C(C)(=N)N
reactant | sodium methoxide | 2.6 mL | C[O-].[Na+]
reactant | methyl 2-(4-methoxy-benzyl)acetoacetate | COC1=CC=C(CC(C(=O)OC)C(=O)C)C=C1 | C13H16O4
reactant | water | O | H2O
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 6 mL | CO | CH4O
product | 5-(4-methoxybenzyl)-2,6-dimethyl-3H-pyrimidin-4-one | 0.54 g | COC1=CC=C(CC=2C(NC(=NC2C)C)=O)C=C1 | C14H16N2O2
